US09376449B2
To a mixture of 3-(2-aminoethyl)-4,6-difluoro-5-methoxy-1H-indole-2-carboxylic acid (2.45 g) and tetrahydrofuran (73.5 mL) were added a 1 M aqueous sodium hydroxide solution (18.1 mL) and water (15.0 mL). To this mixture was added di-tert-butyl dicarbonate (2.97 g), followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and then to the obtained residue was added water, followed by neutralization with 1 M hydrochloric acid. The precipitated solid was collected by filtration and dried under reduced pressure to obtain 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-4,6-difluoro-5-methoxy-1H-indole-2-carboxylic acid (3.35 g) as a white solid.

reactant | 3-(2-aminoethyl)-4,6-difluoro-5-methoxy-1H-indole-2-carboxylic acid | 2.45 g | NCCC1=C(NC2=CC(=C(C(=C12)F)OC)F)C(=O)O | C12H12F2N2O3
reactant | tetrahydrofuran | 73.5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 M, 18.1 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.97 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15.0 mL | O | H2O
product | 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-4,6-difluoro-5-methoxy-1H-indole-2-carboxylic acid | 3.35 g | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC(=C(C(=C12)F)OC)F)C(=O)O | C17H20F2N2O5
